US07737166B2
2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(2-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (#81)
2-Cyclopropyl-7-fluoro-6-(2-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile (I-175) (147 mg, 0.47 mmol) was dissolved in dimethyl sulfoxide (3 ml), then at room temperature, triethylamine (99 μl, 0.71 mmol) and (3S)-3-(dimethylamino)pyrrolidine (78 μl, 0.62 mmol) were added. The solution was stirred under nitrogen atmosphere at 90° C. for 10 hours. After cooling to room temperature, the reaction liquid was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution.

reactant | 2-Cyclopropyl-7-fluoro-6-(2-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.47 mmol, 147 mg | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=C(C=CC=C2)F)C)C#N | C18H12F2N2O
reactant | triethylamine | 0.71 mmol, 99 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.62 mmol, 78 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-6-(2-fluorophenyl)-5-methyl-1,3-benzoxazole-4-carbonitrile | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2N2C[C@H](CC2)N(C)C)C2=C(C=CC=C2)F)C)C#N | C24H25FN4O
